US06608070B1
N-Methoxy-N-methyl-4-methyl-1,2,3-thiadiazole-5-carboxamide:
To a solution of 1,2,3-thiadiazole-5-carbonyl chloride (10.00 g, 61.5 mmol) and N,O-dimethylhydroxylamine hydrochloride (7.20 g, 73.8 mmol) in dichloromethane (200 ml) was added triethylamine (20.6 ml, 147.6 mmol) at 0° C. After stirring for 2 h at room temperature, the mixture was diluted with dichloromethane (300 ml), washed with water (200 ml×2) and dried (MgSO4). Removal of solvent gave 11.31 g (98%) of the title compound as brown crystals.

reactant | 1,2,3-thiadiazole-5-carbonyl chloride | 61.5 mmol, 10.00 g | S1N=NC=C1C(=O)Cl | C3HClN2OS
reactant | N,O-dimethylhydroxylamine hydrochloride | 73.8 mmol, 7.20 g | Cl.CNOC
reactant | triethylamine | 147.6 mmol, 20.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-4-methyl-1,2,3-thiadiazole-5-carboxamide | 11.31 g, 98% | CON(C(=O)C1=C(N=NS1)C)C | C6H9N3O2S
